US06716851B2
4-(2-Methoxy-5-methylanilino)-2-(2-pyridinyl)-6-trifluoromethylpyrimidine
The title compound was prepared from 4-chloro-2-(2-pyridinyl)-6-trifluoromethylpyrimidine (60 mg, 0.23 mmol) and 2-methoxy-5-methylaniline (46 mg, 0.34 mmol) similar to Example 180. After completion of the reaction the solvent was removed under reduced pressure. The product was purified (5 mg) by preparative TLC plate using 1:1 hexane/ethyl acetate as mobile phase. 1H NMR (DMSO-d6): 9.68 (s, 1H), 8.75(d, J=3.6, 1H), 8.26 (d, J=7.2 Hz, 1H), 8.00 (t, J=7.2 Hz, 1H), 7.55 (dd, J=4.0, 7.2 Hz, 1H), 7.04 (m, 2H), 3.82 (s, 3H), 2.02 (s, 3H).

reactant | 4-chloro-2-(2-pyridinyl)-6-trifluoromethylpyrimidine | 0.23 mmol, 60 mg | ClC1=NC(=NC(=C1)C(F)(F)F)C1=NC=CC=C1 | C10H5ClF3N3
reactant | 2-methoxy-5-methylaniline | 0.34 mmol, 46 mg | COC1=C(N)C=C(C=C1)C | C8H11NO
product | 4-(2-Methoxy-5-methylanilino)-2-(2-pyridinyl)-6-trifluoromethylpyrimidine | COC1=C(NC2=NC(=NC(=C2)C(F)(F)F)C2=NC=CC=C2)C=C(C=C1)C | C18H15F3N4O
